US07968746B2
6-Hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (1.005 g, 4.00 mmol) in 22 mL THF was treated with 722.8 mg CDI (4.4 mmol) and stirred for 2 h at room temperature. The pale yellow solution was then treated with 450 μL (381 mg, 4.47 mmol) piperidine in 22 mL THF in 1-2 mL portions over 2 h. The reaction was stirred overnight at room temperature. The reaction was concentrated and the residue dissolved in 100 mL CH2Cl2 and sequentially washed with 50 mL 0.25 M HCl, 50 mL 1.0 M NaHCO3, 50 mL saturated NaCl and dried over Na2SO4. The organic phase was concentrated. Flash chromatography yielded 992 mg of (6-hydroxy-2,5,7,8-tetramethylchroman-2-yl)(piperidin-1-yl)methanone as an off-white solid.

reactant | 6-Hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 4.00 mmol, 1.005 g | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 4.4 mmol, 722.8 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | piperidine | 4.47 mmol, 450 μL, 381 mg | N1CCCCC1 | C5H11N
solvent | THF | 22 mL | C1CCOC1 | C4H8O
solvent | THF | 22 mL | C1CCOC1 | C4H8O
product | (6-hydroxy-2,5,7,8-tetramethylchroman-2-yl)(piperidin-1-yl)methanone | 992 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C)C(=O)N1CCCCC1)C | C19H27NO3
